US07622585B2
To a solution of 2-(2,4-dimethoxybenzyl)-6-nitroisoquinolin-1(2H)-imine (11.9 g, 35 mmol) in anisole (24 mL) was added TFA (24 mL). The reaction mixture was stirred at 90° C. for 6 h and the solvent was removed under reduced pressure. The residue was suspended in MeOH (30 mL) and then treated with NaOH (1.0 N, 38 mL). The mixture was stirred at rt for 10 min and pH was checked to be 9-10. The precipitate was collected by filtration and washed with water to afford 6-nitroisoquinolin-1-amine (6.0 g). 1H NMR (400 MHz, DMSO-d6) ppm 7.20 (d, J=5.72 1H) 7.36 (s, 2H) 7.95 (d, J=5.72 Hz, 1H) 8.15 (dd, J=9.24, 2.64 Hz, 1H) 8.43 (d, J=9.24 Hz, 1H) 8.67 (d, J=2.64 Hz, 1H).

reactant | 2-(2,4-dimethoxybenzyl)-6-nitroisoquinolin-1(2H)-imine | 35 mmol, 11.9 g | COC1=C(CN2C(C3=CC=C(C=C3C=C2)[N+](=O)[O-])=N)C=CC(=C1)OC | C18H17N3O4
reactant | TFA | 24 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | anisole | 24 mL | C1(=CC=CC=C1)OC | C7H8O
product | 6-nitroisoquinolin-1-amine | 6.0 g | [N+](=O)([O-])C=1C=C2C=CN=C(C2=CC1)N | C9H7N3O2
